US08242145B2
Step 3: {3-[2-((S)-4-Benzyl-2-oxo-oxazolidin-3-ylmethyl)-4-bromo-phenoxy]-phenyl}-acetic acid
Hydrolysis of {3-[2-((S)-4-benzyl-2-oxo-oxazolidin-3-ylmethyl)-4-bromo-phenoxy]-phenyl}-acetic acid methyl ester (0.49 mmol) with lithium hydroxide, followed by acidic work-up, yielded the desired product (0.115 g).

reactant | {3-[2-((S)-4-benzyl-2-oxo-oxazolidin-3-ylmethyl)-4-bromo-phenoxy]-phenyl}-acetic acid methyl ester | 0.49 mmol | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OC[C@@H]1CC1=CC=CC=C1)=O)=O | C26H24BrNO5
reactant | lithium hydroxide | [OH-].[Li+]
product | {3-[2-((S)-4-Benzyl-2-oxo-oxazolidin-3-ylmethyl)-4-bromo-phenoxy]-phenyl}-acetic acid | 0.115 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)CC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)Br | C25H22BrNO5
